US06130229
4-[2-[4-(8-Chloro-5,11-dihydro-[1]benzothiepino[4,3-b]pyridin-11-ylidene)-1-piperidinyl]-2-oxoethyl]-1-piperidinecarboxamide
The title compound was prepared by a similar procedure from 4-[2-[4-(8-chloro-5,11-dihydro-[1]benzothiepino[4,3-b]pyridin-11-ylidene)-1-piperidinyl]-2-oxoethyl]-piperidine (120 mg, 0.265 mmol) in CH2Cl2 (3 ml), to which TMSNCO (200 μl, 170 mmol) was added at 0° C. After 5 minutes at 0° C., the mixture was stirred 3.5 hours at room temperature. The reaction mixture was diluted with water and extracted with CH2Cl2 ; the organic phase was washed with NaHCO3 solution and brine, dried over MgSO4, filtered and concentrated. The product was chromatographed on silica in 5%MeOH/CH2Cl2 and eluted with 10%MeOH/CH2Cl2 to afford a white solid (103 mg); HRMS: calc.: 497.1778; found: 497.1766.

reactant | 4-[2-[4-(8-chloro-5,11-dihydro-[1]benzothiepino[4,3-b]pyridin-11-ylidene)-1-piperidinyl]-2-oxoethyl]-piperidine | 0.265 mmol, 120 mg | ClC1=CC2=C(C(C3=NC=CC=C3CS2)=C2CCN(CC2)C(CC2CCNCC2)=O)C=C1 | C25H28ClN3OS
reactant | TMSNCO | 170 mmol, 200 μl | [Si](C)(C)(C)N=C=O | C4H9NOSi
solvent | CH2Cl2 | 3 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 4-[2-[4-(8-Chloro-5,11-dihydro-[1]benzothiepino[4,3-b]pyridin-11-ylidene)-1-piperidinyl]-2-oxoethyl]-1-piperidinecarboxamide | ClC1=CC2=C(C(C3=NC=CC=C3CS2)=C2CCN(CC2)C(CC2CCN(CC2)C(=O)N)=O)C=C1 | C26H29ClN4O2S
